US05631401
N-(2-Methylthioethyl)-N-(4-phenoxybenzyl)amine
Following the procedure described in Example 68A, 4-phenoxybenzaldehyde (1.98 g, 10 mmol) and 2-methylthioethylamine (0.912 g, 10 mmol) were combined to give the title compound (2.53 g, 93%) 1H NMR (300 MHz, CDCl3) δ 7.32 (m, 4 H), 7.09. (t, 1 H), 6.97 (m, 4 H), 3.80 (s, 2 H), 2.84 9t, 2 H), 2.68 (t, 2 H), 2.10 (s, 3 H).

reactant | 4-phenoxybenzaldehyde | 10 mmol, 1.98 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | 2-methylthioethylamine | 10 mmol, 0.912 g | CSCCN | C3H9NS
product | N-(2-Methylthioethyl)-N-(4-phenoxybenzyl)amine | 2.53 g, 93% | CSCCNCC1=CC=C(C=C1)OC1=CC=CC=C1 | C16H19NOS
